US07557114B2
(a) 5-(5-Methyl-thiazol-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A23(b) from 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and 2-Iodo-5-methyl-thiazole (CAS: 847547-16-4). Yellow solid. MS (m/e): 317.0 ([M]+, 100%)

reactant | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C | C19H28BNO4
reactant | 2-Iodo-5-methyl-thiazole | IC=1SC(=CN1)C | C4H4INS
product | 5-(5-Methyl-thiazol-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C=1SC(=CN1)C | C17H20N2O2S
